US04362666
To the solution of 500 mg of 1,3,4,14b-tetrahydro-2H,10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine in 7.5 ml of dimethylformamide and 350 mg of triethylamine, 470 mg of α-bromo-p-chloroacetophenone are added and the mixture is stirred at room temperature for 2 hours. It is diluted with 60 ml of diethyl ether, washed with water, dried and evaporated. The residue is taken up in 15 ml of chloroform and the solution again evaporated, to yield the 2-(p-chlorobenzoyl-methyl)-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine melting at 71°-74°.

reactant | 1,3,4,14b-tetrahydro-2H,10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | 500 mg | C1NCCN2C1C=1N(CC3=C2C=CC=C3)C=CC1 | C15H17N3
reactant | α-bromo-p-chloroacetophenone | 470 mg | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 350 mg | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 2-(p-chlorobenzoyl-methyl)-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | ClC1=CC=C(C(=O)CN2CC3N(C4=C(CN5C3=CC=C5)C=CC=C4)CC2)C=C1 | C23H22ClN3O
